US07884234B2
(1) Preparation of 4-butylbenzyl Chloride
Methanesulfonyl chloride (3.069 g, 26.791 mmol) was added to a solution of 4-butylbenzyl alcohol (4.000 g, 24.355 mmol) in dichloromethane (120 mL) at 0° under argon atmosphere. Triethylamine (2.711 g, 26.791 mmol) was added dropwise at a slow speed to this mixture, and stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was diluted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane) to give the title compound (3.64 g, 82%) as a colorless oil.

reactant | Methanesulfonyl chloride | 26.791 mmol, 3.069 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-butylbenzyl alcohol | 24.355 mmol, 4.000 g | C(CCC)C1=CC=C(CO)C=C1 | C11H16O
reactant | Triethylamine | 26.791 mmol, 2.711 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 4-butylbenzyl Chloride | 3.64 g, 82% | C(CCC)C1=CC=C(CCl)C=C1 | C11H15Cl
